US05187190
A solution of 1-(4-hydroxyphenoxy)propan-2-one (3.2 g), 1,2-ethanediol (3.0 ml) and p-toluenesulphonic acid (50 mg) in toluene (100 ml) was stirred under reflux in a Dean and Stark apparatus for 3 1/2 hours in an atmosphere of argon. The reaction mixture was cooled, washed with 5% aqueous sodium bicarbonate (100 ml), washed with water (2×50 ml), washed with brine (50 ml) and dried. Toluene was removed under reduced pressure to give 4-[(2-methyl-1,3-dioxolan-2-yl)methoxy]phenol as an oil (3.4 g).

reactant | 1-(4-hydroxyphenoxy)propan-2-one | 3.2 g | OC1=CC=C(OCC(C)=O)C=C1 | C9H10O3
reactant | 1,2-ethanediol | 3.0 ml | C(CO)O | C2H6O2
reactant | p-toluenesulphonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(2-methyl-1,3-dioxolan-2-yl)methoxy]phenol | 3.4 g | CC1(OCCO1)COC1=CC=C(C=C1)O | C11H14O4
